US20010025041A1
b) 3-Chlorobenzenesulfonic acid 3-[[N-(tert-butoxycarbonyl)piperidin-4-yl]methoxyl-5-methylphenyl ester
Diethyl azodicarboxylate (349 mg, 2.0 mmol) was added to a solution of 3-chlorobenzenesulfonic acid 3-hydroxy-5-methylphenyl ester (600 mg, 2.0 20 mmol), as prepared in the preceding step, N-tert-butoxycarbonyl-4-piperidinemethanol (430 mg, 2.0 mmol), as prepared in step (b) of Example 1, and triphenylphosphine (525 mg, 2.0 mmol) in tetrahydrofuran (20 mL) at 0° C. The mixture was stirred at 0° C. for 2 h and at room temperature for 3 h. The reaction was quenched with water (50 mL) and extracted with ethyl acetate (3×50 mL). The organic phase was washed with saturated NaHCO3 (2×50 mL), brine (2×50 mL) and dried over Na2SO4. The solvent was removed in vacuo and the residue was purified by flash column chromatography (1:3 ethyl acetate/hexane) to give the title compound as a colorless liquid (800 mg, 81%). 1H-NMR (300 MHz, CDCl3) δ1.24 (m, 2 H), 1.47 (s, 9 H), 1.75 (m, 2 H), 1.90 (m, 1 H), 2.25 (s, 3 H), 2.73 (t, 2 H, J=12.5 Hz), 3.68 (d, 2 H, J=3.1 Hz), 4.13 (m, 2 H), 6.34 (t, 1H, J=2.2 Hz), 6.39 (s, 1 H), 6.61 (s, 1 H), 7.49 (t, 1 H, J=7.8 Hz),7.63(d,1H,J=0.7Hz),7.75(d, 1H,J=3.9Hz),and7.86(t, 1H,J=1.8 Hz).

reactant | Diethyl azodicarboxylate | 2.0 mmol, 349 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-chlorobenzenesulfonic acid 3-hydroxy-5-methylphenyl ester | 20 mmol, 600 mg | OC=1C=C(C=C(C1)C)OS(=O)(=O)C1=CC(=CC=C1)Cl | C13H11ClO4S
reactant | N-tert-butoxycarbonyl-4-piperidinemethanol | 2.0 mmol, 430 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
reactant | triphenylphosphine | 2.0 mmol, 525 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-Chlorobenzenesulfonic acid | 800 mg, 81% | ClC=1C=C(C=CC1)S(=O)(=O)O | C6H5ClO3S
